US04443440
(a) 6-(Diethylamino)hexanol
A mixture of 10 ml (75 mmol) of 6-chlorohexanol and 16.9 g (112 mmole) of Nal dissolved in 100 ml acetone was refluxed for 3.5 days. The reaction mixture was filtered and the filtrate was concentrated to an oil and dissolved in 100 ml of ether. The ether solution was filtered, concentrated to an oil, and dissolved in 30 ml of diethylamine. The solution was stirred for 4 hours and filtered. The filtrate was concentrated to an oil, taken up in acidified water (pH<2) and washed with ethylacetate. The acidic solution was then adjusted to pH 9.5 and extracted twice with ethyl acetate. The organic extract was dried over MgSO4 and concentrated under vacuum to yield 7.5 g of the title compound as an oily product.

reactant | 6-chlorohexanol | 75 mmol, 10 ml | ClCCCCCCO | C6H13ClO
reactant | Nal | 112 mmole, 16.9 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-(Diethylamino)hexanol | 7.5 g | C(C)N(CCCCCCO)CC | C10H23NO
